US04490392
2.9 g of 2-methoxyphenylglyoxal hydrate (crude oil) are dissolved in 6 ml of dimethylsulfoxide, and 2 g of α-methyl-4-methoxyphenethylamine are added thereto. The mixture is treated in the same manner as described in Example 1-(2), whereby a solution of α-(α-methyl-4-methoxyphenethylimino)-2-methoxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-methoxyphenylglyoxal hydrate | 2.9 g | O.COC1=C(C=CC=C1)C(=O)C=O
reactant | α-methyl-4-methoxyphenethylamine | 2 g | CC(CC1=CC=C(C=C1)OC)N | C10H15NO
reactant | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
product | α-(α-methyl-4-methoxyphenethylimino)-2-methoxyacetophenone | CC(CC1=CC=C(C=C1)OC)N=C(C(=O)C1=CC=CC=C1)OC | C19H21NO3
